US06476051B2
B. 3-[1-(t-butoxycarbonyl)-1,2,3,6-tetrahydro-4-pyridinyl]-7-fluoroindole
A stirred solution of 7-fluoroindole (400 mg, 3.0 mmol), t-butyl-4-oxo-1-piperidinecarboxylate (650 mg, 3.3 mmol), and pyrrolidine (0.62 mL, 7.4 mmol) in ethanol (10 mL) was heated at reflux for 16 hours. Solvent was evaporated and the residue subjected to chromatography on silica gel with 20% ethyl acetate/hexanes to afford a yellow solid (620 mg, 66%).

reactant | 7-fluoroindole | 3.0 mmol, 400 mg | FC=1C=CC=C2C=CNC12 | C8H6FN
reactant | t-butyl-4-oxo-1-piperidinecarboxylate | 3.3 mmol, 650 mg | C(C)(C)(C)OC(=O)N1CCC(CC1)=O | C10H17NO3
reactant | pyrrolidine | 7.4 mmol, 0.62 mL | N1CCCC1 | C4H9N
solvent | ethanol | 10 mL | C(C)O | C2H6O
product | 3-[1-(t-butoxycarbonyl)-1,2,3,6-tetrahydro-4-pyridinyl]-7-fluoroindole | 620 mg, 66% | C(C)(C)(C)OC(=O)N1CCC(=CC1)C1=CNC2=C(C=CC=C12)F | C18H21FN2O2
